US06949680B2
a) Synthesis of 2-(3-chloropropyl)-2-(4-methoxyphenyl)-1,3-dioxolane
A solution of 20.0 g (94.0 mmol) of 4-chloro-1-(4-methoxyphenyl)-1-butanone (origin: Acros), 19 ml of ethylene glycol and ca. 1 g of p-toluenesulfonic acid in 120 ml of toluene was heated under reflux with azeotropic removal of water for 16 h. After cooling down to room temperature, ether was added and the organic phase extracted with a saturated solution of NaHCO3 (2×), washed with water (2×), dried (Na2SO4) and concentrated in vacuo to give 24.6 g (99%) of the crude compound, which was used for further functionalization. Column chromatography of 2 g (SiO2, heptane/ether 9:1) afforded 1.15 g of a slightly yellow oil.

reactant | 4-chloro-1-(4-methoxyphenyl)-1-butanone | 94.0 mmol, 20.0 g | ClCCCC(=O)C1=CC=C(C=C1)OC | C11H13ClO2
reactant | ethylene glycol | 19 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | ca. 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | heptane ether | CCCCCCC.CCOCC
solvent | ether | CCOCC | C4H10O
product | 2-(3-chloropropyl)-2-(4-methoxyphenyl)-1,3-dioxolane | ClCCCC1(OCCO1)C1=CC=C(C=C1)OC | C13H17ClO3
